US04228298
4-Difluoromethyl-4-trimethylsiloxy-1-octyne
A solution of 11.5 g. of 4-difluoromethyl-4-hydroxy-1-octyne and 11.32 g. of imidazole in 45 ml. of dimethylformamide is cooled in an ice bath under nitrogen. A 10.3 ml. portion of trimethylchlorosilane is added using a syringe over a 15 minute period. The mixture is stirred in the ice bath for one hour and then overnight at room temperature. The solution is diluted with hexane and then poured into saturated aqueous sodium bicarbonate solution. The hexane solution is separated, washed with aqueous sodium bicarbonate solution and brine, dried over anhydrous sodium sulfate and the solvents are evaporated to dryness giving the desired product as a colorless liquid.

reactant | 4-difluoromethyl-4-hydroxy-1-octyne | FC(C(CC#C)(CCCC)O)F | C9H14F2O
reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | trimethylchlorosilane | C[Si](Cl)(C)C | C3H9ClSi
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-Difluoromethyl-4-trimethylsiloxy-1-octyne | FC(C(CC#C)(CCCC)O[Si](C)(C)C)F | C12H22F2OSi
